US04298615
18.7 g of 2-bromopropane in 30 ml of absolute tetrahydrofuran are added dropwise to 3.6 g of Mg filings in 15 ml of absolute tetrahydrofuran. The mixture is stirred under reflux for 1 hour and is then cooled to 5°-10° C. At this temperature, 23 g of 2,2-dimethyl-2,3-dihydrobenzofuran-6-aldehyde in 100 ml of absolute tetrahydrofuran are added dropwise. The reaction mixture is stirred overnight and is then cautiously decomposed with a cold saturated ammonium chloride solution and a few milliliters of 10% strength hydrochloric acid, sufficient to dissolve the precipitate. The mixture is then extracted three times by shaking with ether and the combined ether extracts are washed with sodium bisulfate solution, sodium bicarbonate solution and water, dried over sodium sulfate and concentrated under reduced pressure. 19.5 g of 2,2-dimethyl-2,3-dihydrobenzofuran-6-yl-(α-isopropyl)-carbinol are obtained in the form of a yellowish oil, which is sufficiently pure for the subsequent reactions. (Yield 68%).

reactant | 2-bromopropane | 18.7 g | BrC(C)C | C3H7Br
reactant | 2,2-dimethyl-2,3-dihydrobenzofuran-6-aldehyde | 23 g | CC1(OC2=C(C1)C=CC(=C2)C=O)C | C11H12O2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2,2-dimethyl-2,3-dihydrobenzofuran-6-yl-(α-isopropyl)-carbinol | 19.5 g, Yield 68% | CC1(OC2=C(C1)C=CC(=C2)C(O)C(C)C)C | C14H20O2
